US06156786
2-(4-Hydroxyphenyl)-3-(4-Methoxybenzoyl)-6-Hydroxybenzo[b]thiophene
2-(4-Methoxyphenyl)-3-(4-methoxybenzoyl)-6-methoxybenzo[b]thiophene (53 g, 131 mmol) was dissolved in chloroform and cooled to 10° C. To this stirring mixture was added boron tribromide (75 g, 296 mmol) and the reaction was allowed to proceed for twenty-four hours at ambient temperature. The reaction was terminated by pouring into water. The organic layer was separated, filtered, and evaporated to dryness. The residue was dissolved in benzene, filtered, and evaporated to dryness. The crude product was further purified by chromatography on a silica gel column eluting with diethylether-benzene (9:1) and then rechromatographed on alumina eluting with diethylether followed by a methanol-ether (1:9) wash and evaporation of the solvents to yield 5.8 g of the title compound. mp 138° C.-140° C. EA calculated for C22H16O4S: C, 70.20; H, 4.28; O, 17.00. Found: C, 70.46; H, 4.50; O, 16.87.

reactant | 2-(4-Methoxyphenyl)-3-(4-methoxybenzoyl)-6-methoxybenzo[b]thiophene | 131 mmol, 53 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(C2=CC=C(C=C2)OC)=O | C24H20O4S
reactant | boron tribromide | 296 mmol, 75 g | B(Br)(Br)Br | BBr3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Hydroxyphenyl)-3-(4-Methoxybenzoyl)-6-Hydroxybenzo[b]thiophene | 5.8 g | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(C2=CC=C(C=C2)OC)=O | C22H16O4S
